US06369143B1
In a four-necked flask equipped with a stirrer and a reflux condenser were placed 50 g of a Zn—Cu couple and 90 ml of tetrahydrofuran, followed by slowly charging a solution of 53 ml of t-butyl bromoacetate and 36 ml of 5-norbornen-2-carboxyaldehyde in 180 ml of tetrahydrofuran. After completion of the charging, the solution was subjected to reflux at 70° C. for 2 hours and then, cooled to room temperature. The Zn—Cu couple was filtered off, after which the solution was washed and extracted with the same solvent and distilled under vacuum to give 39 g of 3-bicyclo[2,2,1]hept-5-en-2-yl-3-hydroxy-propionic acid t-butyl ester (BHP) monomer, represented by the following structural formula M-I.

reactant | t-butyl bromoacetate | 53 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 3-bicyclo[2,2,1]hept-5-en-2-yl-3-hydroxy-propionic acid t-butyl ester | 39 g | C(C)(C)(C)OC(CC(O)C1C2C=CC(C1)C2)=O | C14H22O3
